US07470664B2
Step 6: (3R,5S)-5-(Methoxycarbonyl)pyrrolidin-3-yl 4-vinyl-1,3-dihydro-2H-isoindole-2-carboxylate Hydrochloride
A solution of 1-tert-Butyl 2-methyl (2S,4R)-4-{[(4-vinyl-1,3-dihydro-2H-isoindol-2-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate (13.9 g, 33.4 mmol) in ethyl acetate (700 mL) was cooled in an ice bath the saturated with hydrogen chloride gas. The reaction flask was sealed and allowed to warm to room temperature. After 3.5 h the solvent was removed by evaporation to give the title compound as a gray solid, 11.2 g, 95% yield). 1H NMR (500 MHz, ppm, CD3OD) δ 7.47-7.45 (m, 1 H), 7.32-7.31 (m, 1 H), 7.26-7.21 (m, 1 H), 6.79-6.73 (m, 1 H), 5.79-5.73 (m, 1 H), 5.46 (s, 1 H), 5.41-5.38 (m, 1 H), 4.80-4.72 (m, 4 H), 3.91 (s, 3 H), 3.74-3.63 (m, 2 H), 2.77-2.71 (m, 1 H), 2.51-2.46 (m, 1 H), LRMS (ESI) m/z 317 [(M+H)+; calcd for C17H21N2O4: 317].

reactant | 1-tert-Butyl 2-methyl (2S,4R)-4-{[(4-vinyl-1,3-dihydro-2H-isoindol-2-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate | 33.4 mmol, 13.9 g | C(=C)C1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C22H28N2O6
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
product | (3R,5S)-5-(Methoxycarbonyl)pyrrolidin-3-yl 4-vinyl-1,3-dihydro-2H-isoindole-2-carboxylate Hydrochloride | 95% yield | Cl.C(=C)C1=C2CN(CC2=CC=C1)C(=O)O[C@H]1CN[C@@H](C1)C(=O)OC | InChI=1S/C17H20N2O4.ClH/c1-3-11-5-4-6-12-9-19(10-14(11)12)17(21)23-13-7-15(18-8-13)16(20)22-2;/h3-6,13,15,18H,1,7-10H2,2H3;1H/t13-,15+;/m1./s1
